US09303007B2
EDCI.HCl (2.65 g, 13.8 mmol) was added to a mixture of 4-bromobenzene-1,2-diamine 2.35 g, 12.6 mmol), (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid (3.00 g, 13.2 mmol) and 1-hydroxybenzotriazole (1.93 g, 12.6 mmol) in CH2Cl2 (80 mL) and stirred at ambient conditions for 16 h. The mixture was then diluted with CH2Cl2, washed with water, dried (brine; MgSO4), filtered and concentrated in vacuo to provide a brown foam. Acetic acid (80 mL) was added to the foam and the mixture was heated at 75° C. (bath temperature) for 5 h. The volatile component was removed in vacuo and the residue was dissolved in EtOAc, washed with saturated NaHCO3 solution and the organic phase was dried (brine; MgSO4), filtered and concentrated in vacuo. The resultant crude material was submitted to flash chromatography (silica gel; 50-100% EtOAc/hexanes) to provide (1R,3S,5R)-tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (3.01 g, 7.96 mmol, 63.3% yield) as a light orange foam, which was used without further purification. The reaction also yielded 847 mg of same product with lower purity. An aliquot of the collected material was purified further by preparative HPLC (C-18/30-100% CH3CN-water+0.1% NH4OAc) to achieve an analytical sample. LC-MS retention time 1.248 min; calcd. for C17H21BrN3O2: 378.08. found m/z 380.05 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 7.67 (br s, 1H), 7.43 (br s, 1H), 7.34 (d, J=8.6 Hz, 1H), 4.75 (br s, 1H), 3.62 (br s, 1H), 2.50-2.57-2.31 (m, 1H), 2.31 (dt, J=13.2, 6.7 Hz, 1H), 1.66-1.85 (m, 1H), 1.45 (br s, 3H), 1.11 (br s, 6H), 0.87 (dt, J=8.6, 5.8 Hz, 1H), 0.66 (br s, 1H).

reactant | EDCI.HCl | 13.8 mmol, 2.65 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-bromobenzene-1,2-diamine | 12.6 mmol, 2.35 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid | 13.2 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | 1-hydroxybenzotriazole | 12.6 mmol, 1.93 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | Acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | (1R,3S,5R)-tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 7.96 mmol, 3.01 g, 63.3% yield | BrC=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1 | C17H20BrN3O2
